US09193695B2
Tert-Butyl 2-(3-chlorobenzoyl)hydrazinecarboxylate
The title compound (4.41 g, colorless powder) was synthesized from 3-chlorobenzoyl chloride (2 mL) and tert-butyl carbazate (2.49 g), as in Reference Example P-Q1b.

reactant | 3-chlorobenzoyl chloride | 2 mL | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | tert-butyl carbazate | 2.49 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
product | Tert-Butyl 2-(3-chlorobenzoyl)hydrazinecarboxylate | 4.41 g | ClC=1C=C(C(=O)NNC(=O)OC(C)(C)C)C=CC1 | C12H15ClN2O3
